US07053088B2
(c) [6-(4-Phenyl-piperazin-1-yl)-pyrimidin-4-yl]-quinolin-7-yl-amine
This compound could be prepared from (6-chloro-pyrimidin-4-yl)-quinolin-7-yl-amine and 1-phenyl-piperazine in the presence of K2CO3 and DMF.

reactant | (6-chloro-pyrimidin-4-yl)-quinolin-7-yl-amine | ClC1=CC(=NC=N1)NC1=CC=C2C=CC=NC2=C1 | C13H9ClN4
reactant | 1-phenyl-piperazine | C1(=CC=CC=C1)N1CCNCC1 | C10H14N2
reactant | K2CO3 | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | CN(C)C=O | C3H7NO
product | [6-(4-Phenyl-piperazin-1-yl)-pyrimidin-4-yl]-quinolin-7-yl-amine | C1(=CC=CC=C1)N1CCN(CC1)C1=CC(=NC=N1)NC1=CC=C2C=CC=NC2=C1 | C23H22N6
